US07960552B2
A solution of ethyl 3-cyclopentyl-2-(cyclopentylcarbonyl)-3-oxopropanoate (2.20 g, 7.84 mmol) in EtOH (6.4 mL) was stirred as water (1.2 mL) followed by hydroxylamine hydrochloride (1.02 g, 14.7 mmol) was added. The solution was then heated to reflux for 3 hours. The solution was concentrated and the residue was partitioned between ether and saturated aqueous NaHCO3 solution. The organic layer was washed with brine, dried with MgSO4, filtered and concentrated to yield ethyl 3,5-dicyclopentyl-4-isoxazolecarboxylate as a yellow oil (1.58 g, crude yield 73%). 1H NMR (400 MHz, DMSO-d6): δ 4.23 (q, J=7 Hz, 2H), 3.78-3.72 (m, 1H), 3.45-3.37 (m, 1H), 2.00-1.92 (m, 4H), 1.83-1.49 (m, 12H), 1.26 (t, J=7 Hz, 3H). ESI-LCMS m/z 278 (M+H)+.

reactant | ethyl 3-cyclopentyl-2-(cyclopentylcarbonyl)-3-oxopropanoate | 7.84 mmol, 2.20 g | C1(CCCC1)C(C(C(=O)OCC)C(=O)C1CCCC1)=O | C16H24O4
reactant | water | 1.2 mL | O | H2O
reactant | hydroxylamine hydrochloride | 14.7 mmol, 1.02 g | Cl.NO
solvent | EtOH | 6.4 mL | CCO | C2H6O
product | ethyl 3,5-dicyclopentyl-4-isoxazolecarboxylate | C1(CCCC1)C1=NOC(=C1C(=O)OCC)C1CCCC1 | C16H23NO3
